US08633319B2
Preparation of (1S,2R,5S)-5-methyl-2-(1-methylethyl)cyclohexyl(3S)-3-fluoro-2-oxo-3-piperidinecarboxylate
(1S,2R,5S)-5-Methyl-2-(1-methylethyl)cyclohexyl 2-oxo-3-piperidinecarboxylate (1 wt) is dissolved in ethanol (1.5 vol) and N-fluorobenzenesulfonimide (NFSI) (1.07 wt) added, followed by [(S)-BINAP]Pd(CH3CN)2(OTf)2 (0.038 wt) at 20° C. Residual NFSI and catalyst were washed in with ethanol (3 vol). The jacket is cooled to 0° C. and 2,6-lutidine (0.21 vol) charged slowly, maintaining the temperature below 20° C. The jacket temperature is then raised to 20° C. The reaction mixture is stirred for 24 h, cooled to 0° C. and stirred for an additional 2 h. The solids are isolated by filtration, washing with ethanol (3 vol) and dried under vacuum at 40° C. The dried crude solid is charged to a reactor, and dichloromethane (5 vol) added. The dichloromethane phase is washed sequentially with 2M aqueous NaOH (3 vol), water (3 vol), 5% w/w aqueous HCl (3 vol) and water (3 vol). The dichloromethane extract is transferred to a rotary evaporator and solvent swapped with n-heptane under reduced pressure to give a mobile slurry and a final volume of ca 11 vol. The product is isolated by filtration, washed with heptane (3 vol) and dried under vacuum at 40° C.

reactant | (1S,2R,5S)-5-Methyl-2-(1-methylethyl)cyclohexyl 2-oxo-3-piperidinecarboxylate | O=C1NCCCC1C(=O)O[C@@H]1[C@H](CC[C@@H](C1)C)C(C)C | C16H27NO3
reactant | N-fluorobenzenesulfonimide | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | ethanol | C(C)O | C2H6O
product | (1S,2R,5S)-5-methyl-2-(1-methylethyl)cyclohexyl(3S)-3-fluoro-2-oxo-3-piperidinecarboxylate | F[C@@]1(C(NCCC1)=O)C(=O)O[C@@H]1[C@H](CC[C@@H](C1)C)C(C)C | C16H26FNO3
